US05180735
In acetonitrile (2 ml) was dissolved 4-O-(chloroacetylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-h-exenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol (500 mg). To the solution was added methyl iodide (0.82 ml), and the mixture was stirred for 8 hours. The solvent was distilled off under reduced pressure. The residue was pulverized by the addition of ether to afford 4-O-(N-chloroacetylcarbamoyl)- 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-dimethylsulfoniomethyl-1,4-cyclohexanediol iodide (701 mg: yield 100%) as pale yellow powder.

reactant | 4-O-(chloroacetylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-h-exenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol | 500 mg | ClCC(=O)NC(=O)OC1C(C(C(CC1)(O)CSC)C1(C(CC=C(C)C)O1)C)OC | C20H32ClNO6S
reactant | methyl iodide | 0.82 ml | CI | CH3I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-O-(N-chloroacetylcarbamoyl)- 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-dimethylsulfoniomethyl-1,4-cyclohexanediol iodide | 701 mg, yield 100% | [I-].ClCC(=O)NC(=O)OC1C(C(C(CC1)(O)C[S+](C)C)C1(C(CC=C(C)C)O1)C)OC | InChI=1S/C21H34ClNO6S.HI/c1-13(2)7-8-15-20(3,29-15)18-17(27-4)14(28-19(25)23-16(24)11-22)9-10-21(18,26)12-30(5)6;/h7,14-15,17-18,26H,8-12H2,1-6H3;1H
